US07544690B2
To a suspension of trans-4-aminomethyl-cyclohexanecarboxylic acid (15.0 g, 95.4 mmol) in CHCl3 (150 mL) were added 1 M aqueous sodium hydroxide (150 mL) and (Boc)2O (21.9 g, 100 mmol) successively. The reaction mixture was stirred at ambient temperature for 15 hr, and partitioned between CHCl3 and water. The aqueous layer was acidified with saturated aqueous KHSO4 (pH=3), extracted with CHCl3 (three times). The combined organic layer was washed with brine, dried over MgSO4, filtered, and concentrated to give a white solid. To a suspension of the above solid in benzene (75 mL) were added phosphorazidic acid diphenyl ester (16.2 g, 58.9 mmol) and triethylamine (5.94 g, 58.7 mmol). The reaction mixture was stirred at reflux for 3 hr (Caution! Vigorous exothermic reaction). Benzyl alcohol (6.65 g, 61.5 mmol) was added, the reaction mixture was stirred at reflux for 24 hr, concentrated. After dissolution with EtOAc and H2O, the organic layer was separated. The aqueous layer was extracted with EtOAc (twice), the combined organic layer was washed with 1 M aqueous KHSO4, saturated aqueous NaHCO3 and brine, dried over MgSO4, filtered, concentrated, and purified by flash chromatography (silica gel, 33% EtOAc in hexane) to give a white solid. A suspension of the above solid in Et2O was stirred at ambient temperature for 30 min and filtered. The filtrate was washed with Et2O and dried under reduced pressure to give trans-[4-(tert-butoxycarbonylamino-methyl)-cyclohexyl]-carbamic acid benzyl ester (17.4 g, 50%) as a white solid.

reactant | trans-4-aminomethyl-cyclohexanecarboxylic acid | 95.4 mmol, 15.0 g | NC[C@@H]1CC[C@H](CC1)C(=O)O | C8H15NO2
reactant | sodium hydroxide | 1 M, 150 mL | [OH-].[Na+]
reactant | (Boc)2O | 100 mmol, 21.9 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | phosphorazidic acid diphenyl ester | 58.9 mmol, 16.2 g | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(=O)N=[N+]=[N-] | C12H10N3O3P
reactant | triethylamine | 58.7 mmol, 5.94 g | C(C)N(CC)CC | C6H15N
reactant | Benzyl alcohol | 61.5 mmol, 6.65 g | C(C1=CC=CC=C1)O | C7H8O
solvent | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 75 mL | C1=CC=CC=C1 | C6H6
solvent | Et2O | CCOCC | C4H10O
product | trans-[4-(tert-butoxycarbonylamino-methyl)-cyclohexyl]-carbamic acid benzyl ester | 17.4 g, 50% | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)CNC(=O)OC(C)(C)C)=O | C20H30N2O4
